spice
* NMOS: M1, M2, M5
* PMOS: M3, M4
* Resistor: R1

M1 2 2 6 6 NMOS
M2 2 3 6 6 NMOS
M3 2 4 5 5 PMOS
M4 5 2 5 5 PMOS
M5 6 6 0 0 NMOS

R1 2 6 1k

VDD 5 0 DC 1.8
Vin1 2 0 DC 0
Vin2 3 0 DC 0
Vb1 6 0 DC 0
Vb2 4 0 DC 0

.END